US07465731B2
To a stirred solution of tert-butyl (5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridinyl){(3R)-1-[(2,6,6-trimethyl-1-cyclohexen-1-yl)methyl]-3-pyrrolidinyl}carbamate (80 mg) in methanol (1 mL) was added 4N hydrogen chloride in methanol (3 mL) at ambient temperature and the mixture was stirred at the same temperature for fifteen minutes. The mixture was concentrated in vacuo and the mixture was dissolved in dioxane (1 mL). To this solution was added 4N hydrogen chloride in dioxane (3 mL) and the mixture was stirred at ambient temperature for two hours. The reaction mixture was concentrated in vacuo and the resulting solid was triturated with acetonitrile to give (2E)-N-hydroxy-3-[6-({(3R)-1-[(2,6,6-trimethyl-1-cyclohexen-1-yl)methyl]-3-pyrrolidinyl}amino)-3-pyridinyl]acrylamide dihydrochloride (40 mg) as a pale tan amorphous solid.

reactant | tert-butyl (5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridinyl){(3R)-1-[(2,6,6-trimethyl-1-cyclohexen-1-yl)methyl]-3-pyrrolidinyl}carbamate | 80 mg | O=C(/C=C/C=1C=CC(=NC1)N(C(OC(C)(C)C)=O)[C@H]1CN(CC1)CC1=C(CCCC1(C)C)C)NOC1OCCCC1 | C32H48N4O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
solvent | methanol | 3 mL | CO | CH4O
product | (2E)-N-hydroxy-3-[6-({(3R)-1-[(2,6,6-trimethyl-1-cyclohexen-1-yl)methyl]-3-pyrrolidinyl}amino)-3-pyridinyl]acrylamide dihydrochloride | 40 mg | Cl.Cl.ONC(\C=C\C=1C=NC(=CC1)N[C@H]1CN(CC1)CC1=C(CCCC1(C)C)C)=O | InChI=1S/C22H32N4O2.2ClH/c1-16-5-4-11-22(2,3)19(16)15-26-12-10-18(14-26)24-20-8-6-17(13-23-20)7-9-21(27)25-28;;/h6-9,13,18,28H,4-5,10-12,14-15H2,1-3H3,(H,23,24)(H,25,27);2*1H/b9-7+;;/t18-;;/m1../s1
